Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Fall, Altered Mental Status 

 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ year old male with PMHx of atrial 
fibrillation, sCHF (LVEF 25%), HTN, dementia, and orthostatic 
hypotension with tendency to fall who was found down in his 
nursing home in another patient's room, apparently confused. The 
fall was unwitnessed and it is unclear if syncope occurred. Did 
strike his head. He denies any current pain or other symptoms. 
He does not remember that he fell. According to his daughter he 
has had gradually progressive dementia and has been scheduled to 
be transferred to from ___ to the memory 
care unit next week. She says that nursing at ___ thought he 
seemed slightly more confused than usual today.
 
In the ED, initial vital signs were: 98 ___ 16 94% RA 
Labs were notable for normal WBC, H/H, plt 132, negative UA, 
Lactate:2.3. Cr 1.7 (baseline 1.7-2.0). Dig level- 0.9.
EKG reportedly showed afib at 119, RBBB, STD in V4-V6 with a 
repeat EKG with rate 82 and improvement in STD   
He had a CT Head which showed no acute intracranial 
abnormalities.
CT C-Spine showed severe degenerative change. No definite acute 
fracture or traumatic subluxation.
CT Abdomen and pelvis showed small-to-moderate bilateral pleural 
effusions and adjacent atelectasis.  4 x 7 cm lobulated mass 
immediately superior to the right kidney may arise from the 
right adrenal gland or represent an isolated mass. A 1.3 x 1.4 
cm filling defect along the wall of the left atrium measuring 40 
Hounsfield units may represents a mural clot. 
Patient was given 500mL NS, Metoprolol Succinate 25mg 
 
Vitals on transfer: 97.5 81 145/92 16 100% RA 

On the floor, he denies any symptoms including SOB or pain. His 
daughter accompanies him. She adds to the history that he has a 
PCA that visits him 3x/wk and a ___ 2x/wk. She has been 
concerned that his legs have been getting more swollen, so 
started an additional 10mg po torsemide every fourth day in 
conjunction with ___, NP.  

Review of Systems:  
(+) As above. 
(-) fever, chills, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
dysuria. 
 
Past Medical History:
Dementia
Chronic systolic cardiomyopathy EF 25%
Atrial fibrillation not on anticoagulation
Thrombocytopenia. Baseline is in 50,000s x many years.
Depression.
Essential tremor.
Prostate cancer s/p radiation treatment.
Hypertension.
Benign prostatic hypertrophy.
OSA on CPAP
Bullous pemphigoid on prednisone 
 
Social History:
___
Family History:
Father and Mother died in ___
Brother with macular degeneration

 
Physical Exam:
ADMISSION EXAM:
==================
Vitals- 97.8  136/88  89  16  92%RA 
General: Elderly man in NAD, pleasant, AAO x 1 (thinks he's in 
___, unsure of year.
HEENT: PERRL, sclerae anicteric, MMM  
Neck: supple, JVP at earlobe at 45 degrees.   
CV: Irregular, no m/r/g  
Lungs: Bibasilar crackles, otherwise clear.
Abdomen: soft, non-tender  
Ext: 2+ pitting edema to hips bilaterally  
Neuro: CNs II-XII grossly intact. Strength ___ in all 
extremities.
Skin: Bruising to bilateral knees, 1 cm laceration at L shin, 
4-5 cm skin tear w/ blood on back w/ tegaderm in place.

DISCHARGE EXAM:
==================
Vitals: 97.8 145/78 67 20 97% RA 68.6 kg 
General: Elderly man in NAD, pleasant, AAO x 1 
CV: Irregular, no m/r/g  
Lungs: Fine bibasilar crackles, otherwise clear.
Abdomen: soft, non-tender, BS present 
Ext: 1+ pitting edema to shins with stockings in place
Skin: dressing on back clean and intact
 
Pertinent Results:
ADMISSION LABS:
==================
___ 08:42PM BLOOD WBC-8.7 RBC-4.01* Hgb-14.2 Hct-42.8 
MCV-107* MCH-35.4* MCHC-33.2 RDW-15.9* Plt ___
___ 08:42PM BLOOD Neuts-81.2* Lymphs-11.6* Monos-6.4 
Eos-0.3 Baso-0.4
___ 08:42PM BLOOD ___ PTT-32.5 ___
___ 10:30PM BLOOD Glucose-115* UreaN-44* Creat-1.7* Na-141 
K-4.3 Cl-101 HCO3-30 AnGap-14
___ 10:30PM BLOOD Digoxin-0.9
___ 08:41PM BLOOD Lactate-2.3*

DISCHARGE LABS:
==================
___ 06:30AM BLOOD WBC-6.6 RBC-3.92* Hgb-13.5* Hct-42.3 
MCV-108* MCH-34.5* MCHC-32.0 RDW-15.7* Plt ___
___ 06:30AM BLOOD Glucose-93 UreaN-37* Creat-1.3* Na-144 
K-3.6 Cl-100 HCO3-36* AnGap-12
___ 06:30AM BLOOD Calcium-8.6 Phos-2.4* Mg-2.1

STUDIES:
==================
___ EKG: Atrial fibrillation with a rapid ventricular response. 
Right bundle-branch block. Compared to the previous tracing of 
___ the ventricular response has increased. Otherwise, no 
diagnostic interim change. 
___ TTE: IMPRESSION: Mild symmetric LVH. Severe global 
hypokinesis - (inferior and inferolateral segments are 
near-akinetic). Mild to moderate aortic and mitral 
regurgitation. Mild elevation of pulmonary artery systolic 
pressure.
___ CT C-spine: IMPRESSION: 
1.  Severe degenerative changes as described above. 
2.  No definite evidence of acute fracture or traumatic 
subluxation. 
___ CT Head w/o contrast: IMPRESSION:  No evidence of acute 
intracranial abnormality.
___ CT Abd/pel w/ con: IMPRESSION: 
1.  Bilateral small pleural effusions and subsegmental 
atelectasis, decreased compared to the prior examination. 
2.  Filling defect in the left atrium, most likely mural 
thrombus.  
3.  A 4 x 7 cm lobulated mass superior to the right kidney 
likely represents a benign process such as lymphangioma.   
___ CT Chest w/ con: IMPRESSION: 
1.  Bilateral small pleural effusions and subsegmental 
atelectasis, decreased compared to the prior examination. 
2.  Filling defect in the left atrium, most likely mural 
thrombus.  
3.  A 4 x 7 cm lobulated mass superior to the right kidney 
likely represents a benign process such as lymphangioma. 

 
Brief Hospital Course:
___ year old male with PMHx of atrial fibrillation, sCHF (LVEF 
25%), HTN, dementia, and orthostatic hypotension with tendency 
to fall who was found down in his nursing home in another 
patient's room. 

# Fall/?Syncope: Fall was unwitnessed and patient cannot recall 
fall, likely due to baseline dementia. Trauma workup in ED 
negative. Was in RVR on admission, may have contributed. No 
further RVR on tele. Orthostatics were negative on admission but 
after diuresis, he was noted to be orthostatic with systolic BP 
134 from lying down to 114 on sitting and symptomatic, so 
torsemide dose was adjusted at discharge.  He was seen by ___ and 
is being discharged to ___ with plan for eventual 
placement to dementia unit.

# ?Mural thrombus in LA: Seen on CT Chest done for trauma 
screen. Would not anticoagulate even if thrombus was present 
given goals of care. Continued ASA 81.

# Dementia: Confused at baseline. Difficult to be sure, but 
seems close to baseline per daughter. Family was planning to 
transition to dementia unit at ___ this week.
Plan to continue with this transition in the coming weeks.

# Acute on chronic sCHF: EF 25%. Dry weight as of ___ was 
162 lbs. Weight here is 154 lbds, but pt clearly appears volume 
up on exam (bibasilar crackles, 2+ pitting edema to hips, JVD). 
Increased home torsemide to 30mg daily but decreased down to 20 
mg daily with 10 mg every other day dosing as needed for 
increased edema or weight increase. Continued digoxin, 
betablocker, 2g sodium diet.

# Afib: CHADS2 of 3. Continued betablocker, ASA 81, digoxin.

# R adrenal/kidney mass: 4 x 7 cm lobulated mass immediately 
superior to the right kidney. Per radiology read, likely 
represents a benign lymphangioma.  Will defer further workup 
given would likely be invasive and unlikely to improve pt 
quality or quantity of life.

# Bullous pemphigoid: continue home prednisone.

# Depression: cont home mirtazepine and venlafaxine.

# HTN: cont metop as above.

# OSA: on CPAP at home. Cont in house.

Transitional Issues:
- Discharge torsemide dose 20 mg daily with additional 10 mg 
every other day as needed.  Patient noted to be orthostatic at 
discharge; if symptomatic, would continue to reassess diuresis.
- Held home daily potassium repletion; please continue to 
monitor level daily and replete as needed. 

# Code: DNR/DNI 
# Communication: Patient and daugther  
# Emergency Contact: ___ (daughter/HCP) ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Digoxin 0.0625 mg PO QAM 
3. Miconazole 2% Cream 1 Appl TP BID:PRN jock itch 
4. Mirtazapine 22.5 mg PO HS 
5. Omeprazole 20 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Potassium Chloride 20 mEq PO DAILY 
8. PredniSONE 12.5 mg PO DAILY 
9. Torsemide 20 mg PO DAILY 
10. Torsemide 10 mg PO EVERY FOURTH DAY 
11. Metoprolol Succinate XL 50 mg PO QAM 
12. Metoprolol Succinate XL 25 mg PO QPM 
13. Venlafaxine XR 37.5 mg PO DAILY 
14. Acetaminophen 325 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Digoxin 0.0625 mg PO QAM 
4. Miconazole 2% Cream 1 Appl TP BID:PRN jock itch 
5. Mirtazapine 22.5 mg PO HS 
6. Omeprazole 20 mg PO DAILY 
7. PredniSONE 12.5 mg PO DAILY 
8. Venlafaxine XR 37.5 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Metoprolol Succinate XL 50 mg PO QAM 
11. Metoprolol Succinate XL 25 mg PO QPM 
12. Torsemide 20 mg PO DAILY 
13. Torsemide 10 mg PO Q48H PRN increased edema 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Mechanical Fall
Acute on chronic systolic heart failure

Secondary:
Dementia
Depression
Atrial Fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you were found on the 
floor at your assisted living facility. An extensive workup 
including several CT scans showed no fracture or other 
significant trauma. Your home torsemide was increased.
 
Followup Instructions:
___